US09340549B2
A microwave vial was charged with (S)-5,5-dimethyl-4-phenyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxazolidin-2-one (0.100 g, 0.254 mmol), 3-bromo-1,7-naphthyridin-2(1H)-one (0.063 g, 0.280 mmol), sodium carbonate (0.081 g, 0.763 mmol), dioxane (2.0 mL), and water (0.400 mL). Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) (DCM adduct) (0.021 g, 0.025 mmol) was added, the system was purged with argon, and the tube was sealed. The mixture was irradiated at 100° C. in the microwave for 1 hour. The reaction mixture was then filtered through Celite® brand filter aid, and the filtrate was concentrated to afford a brown oil. The oil thus obtained was purified using column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-10% MeOH-EtOAc) to afford Example 88 ((S)-5,5-dimethyl-3-(4-(2-oxo-1,2-dihydro-1,7-naphthyridin-3-yl)phenyl)-4-phenyloxazolidin-2-one) (0.020 g, 0.049 mmol, 19.12% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.92 (br. s., 3H), 1.65 (br. s., 3H), 5.52 (br. s., 1H), 7.09-7.49 (m, 5H), 7.49-7.93 (m, 5H), 8.08 (br. s., 1H), 8.20-8.50 (m, 1H), 8.50-8.83 (m, 1H), 12.18 (br. s., 1H). m/z (ESI) 412.3 (M+H)+.

reactant | (S)-5,5-dimethyl-4-phenyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxazolidin-2-one | 0.254 mmol, 0.100 g | CC1([C@@H](N(C(O1)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)C | C23H28BNO4
reactant | 3-bromo-1,7-naphthyridin-2(1H)-one | 0.280 mmol, 0.063 g | BrC=1C(NC2=CN=CC=C2C1)=O | C8H5BrN2O
reactant | sodium carbonate | 0.763 mmol, 0.081 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.025 mmol, 0.021 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.400 mL | O | H2O
product | (S)-5,5-dimethyl-3-(4-(2-oxo-1,2-dihydro-1,7-naphthyridin-3-yl)phenyl)-4-phenyloxazolidin-2-one | 19.12% yield | CC1([C@@H](N(C(O1)=O)C1=CC=C(C=C1)C=1C(NC2=CN=CC=C2C1)=O)C1=CC=CC=C1)C | C25H21N3O3
